US04997835
19 g of 2-propylpyridine-N-oxide were dissolved in 40 ml of glacial acetic acid/40 ml of acetic anhydride and stirred for 6 hours at 85° C. and 12 hours at ambient temperature. Excess anhydride was decomposed with H2O, the solution was neutralized with Na2CO3 and extracted with diethyl ether. After rotating in the ether phase, 12 g of 2-(1-acetoxypropyl)-pyridine remained. This product was dissolved in 120 ml of methanol (70%), mixed with 4 g of NaOH and refluxed for 6 hours. After rotating out the methanol mixing took place with water, extraction with diethyl ether and the organic phase was rotated in. 5.4 g of 2-(1-hydroxypropyl)-pyridine were left. 0.5 g of this substance was refluxed for 2 hours with 1 g of MnO2 and 30 ml of dichloromethane. After filtering off the MnO2, rotation in took place to dryness. 0.3 g of ethyl-2-pyridylketone was obtained.

reactant | 2-propylpyridine-N-oxide | 19 g | C(CC)C1=[N+](C=CC=C1)[O-] | C8H11NO
reactant | H2O | O | H2O
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl-2-pyridylketone | 0.3 g | C(C)C(=O)C1=NC=CC=C1 | C8H9NO
